US04219219
1,1-Diphenylethylene and phenol in an excess amount were heated in an oil bath at 140° to 150° C. for 1 hour in the presence of p-toluenesulfonic acid. After being allowed to cool, p-toluenesulfonic acid was neutralized using sodium hydrogencarbonate and the excess phenol was then removed by steam distillation to obtain p-(1,1-diphenylethyl)phenol. The resulting phenol was then subjected to carboxylation by the Kolbe reaction according to the process described in Synthesis Example 1 to obtain Compound (4) which was then converted into the zinc salt by the same process as that described in Synthesis Example 2.

reactant | 1,1-Diphenylethylene | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | p-(1,1-diphenylethyl)phenol | C1(=CC=CC=C1)C(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C20H18O
